US04486428
dl-4-(4-Amino-2-butyl)-5-hydroxy-2-methyl-7-(5-phenyl-2-pentyl)-3,4-dihydro-2H-benzopyran
Under anhydrous conditions and a nitrogen atmosphere, to a solution of 190 mg (5 mmole) lithium aluminum hydride in 50 ml tetrahydrofuran at 10° C. is added dropwise a solution of 1.885 g (5 mmole) dl-5-hydroxy-4-(1-methyl-2-cyanoethyl)-2-methyl-7-(5-phenyl-2-pentyl)-3,4-dihydro-2H-benzopyran in 25 ml of tetrahydrofuran. After the addition is complete, the mixture is stirred at room temperature for 6 hours. Ethyl acetate is added to consume the unreacted hydride. The reaction mixture is evaporated to dryness, the residue partitioned between water and methylene chloride and the organic layer dried over anhydrous magnesium sulfate. The solvent is evaporated to provide the title compound as the free base.

reactant | lithium aluminum hydride | 5 mmole, 190 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | dl-5 hydroxy-4-(1-methyl-2-cyanoethyl)-2-methyl-7-(5-phenyl-2-pentyl)-3,4-dihydro-2H-benzopyran | 5 mmole, 1.885 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.OC1(OC2=C(C(C1)C(CC#N)C)C=CC(=C2)C(C)CCCC2=CC=CC=C2)C
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 4-(4-Amino-2-butyl)-5-hydroxy-2-methyl-7-(5-phenyl-2-pentyl)-3,4-dihydro-2H-benzopyran | NCCC(C)C1CC(OC2=C1C(=CC(=C2)C(C)CCCC2=CC=CC=C2)O)C | C25H35NO2
